US07423150B2
To N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}piperidine-4-carboxamide (1 eq) in dioxane and N,N-disopropylethylamine (2 eq) was added acetic anhydride (1 eq) and the resulting mixture was stirred for 1 h. 1-acetyl-N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}piperidine-4-carboxamide thus formed was purified by preparative chromatography. MS: MH+=571.5.

reactant | N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}piperidine-4-carboxamide | 1 eq | FC1=C(C=C(C=C1)C(F)(F)F)NC1=NC2=C(N1C)C=CC(=C2)OC2=CC(=NC=C2)NC(=O)C2CCNCC2 | C26H24F4N6O2
reactant | acetic anhydride | 1 eq | C(C)(=O)OC(C)=O | C4H6O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 1-acetyl-N-{4-[(2-{[2-fluoro-5-(trifluoromethyl)phenyl]amino}-1-methyl-1H-benzimidazol-5-yl)oxy]pyridin-2-yl}piperidine-4-carboxamide | C(C)(=O)N1CCC(CC1)C(=O)NC1=NC=CC(=C1)OC1=CC2=C(N(C(=N2)NC2=C(C=CC(=C2)C(F)(F)F)F)C)C=C1 | C28H26F4N6O3
